US08440651B2
N-((2-(5-fluoro-1H-indol-4-yl)-4-morpholinopyrido[3,2-d]pyrimidin-6-yl)methyl)tetrahydro-2H-pyran-4-amine 142
N-((2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-6-yl)methyl)tetrahydro-2H-pyran-4-amine (0.17 g) was reacted with 1-(tert-butyldimethylsilyl)-5-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole via General Procedure A to produce 79.1 mg of 142 following reverse phase HPLC purification. MS (Q1) 463.2 (M)+

reactant | N-((2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-6-yl)methyl)tetrahydro-2H-pyran-4-amine | 0.17 g | ClC=1N=C(C2=C(N1)C=CC(=N2)CNC2CCOCC2)N2CCOCC2 | C17H22ClN5O2
reactant | 1-(tert-butyldimethylsilyl)-5-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole | [Si](C)(C)(C(C)(C)C)N1C=CC2=C(C(=CC=C12)F)B1OC(C(O1)(C)C)(C)C | C20H31BFNO2Si
product | N-((2-(5-fluoro-1H-indol-4-yl)-4-morpholinopyrido[3,2-d]pyrimidin-6-yl)methyl)tetrahydro-2H-pyran-4-amine | FC=1C(=C2C=CNC2=CC1)C=1N=C(C2=C(N1)C=CC(=N2)CNC2CCOCC2)N2CCOCC2 | C25H27FN6O2
